US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone dihydrochloride
To {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (18 mg, 0.34 mmol) was added 1 M HCl (5 mL) and the mixture was concentrated to afford the desired product (15 mg, 75%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.43-9.36 (m, 1H), 8.49 (d, J=2.2 Hz, 1H), 8.34-8.27 (m, 1H), 7.98-7.22 (m, 3H), 3.69-3.59 (m, 1H), 3.45-3.22 (m, 4H), 2.98-2.81 (m, 1H), 2.59-1.75 (m, 9H), 1.45-1.22 (m, 10H); ESI MS m/z 522 [C30H36ClN3O3+H]+; HPLC 95.2% (AUC), tR=10.26 min.

reactant | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.34 mmol, 18 mg | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | C30H36ClN3O3
reactant | HCl | 1 M, 5 mL | Cl | ClH
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone dihydrochloride | 15 mg, 75% | Cl.Cl.ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | InChI=1S/C30H36ClN3O3.2ClH/c1-4-34(5-2)22-11-9-21(10-12-22)33-28-23-14-19(20-15-25(31)30(36)27(16-20)37-3)8-13-26(23)32-17-24(28)29(35)18-6-7-18;;/h8,13-18,21-22,36H,4-7,9-12H2,1-3H3,(H,32,33);2*1H
